US09403798B2
1-(4-Fluorophenyl)-1H-pyrrol-3-amine
To an ethanol solution (2.6 mL) of 1-(4-fluorophenyl)-3-nitro-1H-pyrrole (131 mg, 0.635 mmol) synthesized in Reference Synthesis Example 248, palladium-activated carbon (13.1 mg) was added and the resultant mixture was stirred under hydrogen atmosphere at room temperature for 1 day. After completion of the reaction, the reaction solution was filtered with Celite and the filtrate was concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | 1-(4-fluorophenyl)-3-nitro-1H-pyrrole | 0.635 mmol, 131 mg | FC1=CC=C(C=C1)N1C=C(C=C1)[N+](=O)[O-] | C10H7FN2O2
catalyst | palladium-activated carbon | 13.1 mg | [Pd] | Pd
solvent | ethanol | 2.6 mL | C(C)O | C2H6O
product | 1-(4-Fluorophenyl)-1H-pyrrol-3-amine | FC1=CC=C(C=C1)N1C=C(C=C1)N | C10H9FN2
